US06060484
A. 9-Fluorene carboxamide
The compound was prepared substantially in accordance with the procedure detailed in Example 21A, using 9-fluorenecarboxylic acid (6.00 g, 28.5 mmol) and oxalyl chloride (3.5 ml, 39.9 mmol) in 30 ml of toluene to provide a clear oil that was dissolved in Et2O and treated with ammonia.

reactant | 9-fluorenecarboxylic acid | 28.5 mmol, 6.00 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | oxalyl chloride | 39.9 mmol, 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | 9-Fluorene carboxamide | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)N | C14H11NO
